US09193692B2
D. 2-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol
2-(4-Bromophenyl)propan-2-ol (4.7 g, 21.85 mmol), bis(pinacolato)diboron (6.66 g, 26.2 mmol), potassium acetate (6.43 g, 65.6 mmol) and dimethyl sulfoxide (50 mL) were stirred and degassed under vacuum for 10 min. [1,1′-Bis(diphenyl-phosphino)ferrocene]dichloro-palladium(II) complex with dichloromethane (1:1) (0.892 g, 1.093 mmol) was added and the reaction was degassed for another 5 min. The reaction was then heated to 80° C. under nitrogen for 2 h. The reaction was cooled to room temperature and then extracted with 1:1 ether:ethyl acetate and water. The resulting black emulsion was filtered through a pad of celite and the filtrate combined with extraction layers. The organic layer was dried over magnesium sulfate, filtered and then purified on silica gel column (0-25% ethyl acetate in hexanes). The product fractions were concentrated and then triturated in hexanes to give a white solid, (4.0 g, 15.3 mmol, 70% yield). MS (ESI) m/z 263.3 [M+1]+.

reactant | 2-(4-Bromophenyl)propan-2-ol | 21.85 mmol, 4.7 g | BrC1=CC=C(C=C1)C(C)(C)O | C9H11BrO
reactant | bis(pinacolato)diboron | 26.2 mmol, 6.66 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 65.6 mmol, 6.43 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 1.093 mmol, 0.892 g | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 2-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol | 70% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(C)(C)O)C | C15H23BO3
